US04464300
6 g of 7-chloro-5-(2-fluorophenyl)-1,3-dihydro-2H-1-benzazepine-2-thione and 27 g of isonicotinic acid hydrazide are dissolved together in 360 ml of n-butanol and heated to boiling under reflux for 24 hours. After evaporation of the resulting solution in vacuo, the residue is partitioned between toluene and water. The toluene phase is concentrated to about 100 ml. The precipitated crystals are filtered off and recrystallized from benzene. There is obtained 8-chloro-6-(2-fluorophenyl)-1-(4-pyridyl)-4H-s-triazolo[4,3-a][1]benzazepine of melting point 198°-200°.

reactant | 7-chloro-5-(2-fluorophenyl)-1,3-dihydro-2H-1-benzazepine-2-thione | 6 g | ClC=1C=CC2=C(C(=CCC(N2)=S)C2=C(C=CC=C2)F)C1 | C16H11ClFNS
reactant | isonicotinic acid hydrazide | 27 g | C(C1=CC=NC=C1)(=O)NN | C6H7N3O
solvent | n-butanol | 360 ml | C(CCC)O | C4H10O
product | 8-chloro-6-(2-fluorophenyl)-1-(4-pyridyl)-4H-s-triazolo[4,3-a][1]benzazepine | ClC=1C=CC2=C(C(=CCC=3N2C(=NN3)C3=CC=NC=C3)C3=C(C=CC=C3)F)C1 | C22H14ClFN4
